US09260427B2
Prepared using General Procedure 7. Into a stirring solution of (S)-2-(4-(3-(tert-butoxy)-2-(4-(tert-butyl)benzamido)-3-oxopropyl)phenyl)pyrimidine-5-carboxylic acid (50 mg, 0.10 mmol) in DCM (2 mL) were added EDC (34 mg, 0.20 mmol), DMAP (3 mg, 0.02 mmol) and heptanehydrazide (16 mg, 0.11 mmol). After 18 h, the reaction mixture was diluted with NaHCO3 and extracted with DCM (2×). The organic layers were combined, dried (Na2SO4), concentrated and purified by chromatography (EA/Hexane) to provide 38 mg (61%) of tert-butyl (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(2-heptanoylhydrazine-1-carbonyl)pyrimidin-2-yl)phenyl)propanoate. LCMS-ESI (m/z) calculated for C36H47BN5O5: 629.8; no m/z observed, tR=3.84 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 9.17 (s, 2H), 8.42 (d, J=8.2 Hz, 2H), 7.69 (d, J=8.4 Hz, 2H), 7.43 (d, J=8.4 Hz, 2H), 7.34 (d, J=8.2 Hz, 2H), 6.70 (d, J=7.3 Hz, 1H), 5.01 (dd, J=12.6, 5.8 Hz, 1H), 3.41-3.20 (m, 2H), 2.35 (t, J=7.5 Hz, 2H), 1.81-1.61 (m, 2H), 1.59 (d, J=14.0 Hz, 2H), 1.45 (s, 4H), 1.42-1.22 (m, 18H), 0.88 (t, J=6.8 Hz, 3H).

reactant | (S)-2-(4-(3-(tert-butoxy)-2-(4-(tert-butyl)benzamido)-3-oxopropyl)phenyl)pyrimidine-5-carboxylic acid | 0.10 mmol, 50 mg | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)O)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C29H33N3O5
reactant | EDC | 0.20 mmol, 34 mg
reactant | heptanehydrazide | 0.11 mmol, 16 mg | C(CCCCCC)(=O)NN | C7H16N2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.02 mmol, 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(2-heptanoylhydrazine-1-carbonyl)pyrimidin-2-yl)phenyl)propanoate | 38 mg, 61% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C(=O)NNC(CCCCCC)=O)C=C1 | C36H47N5O5
